US08026257B2
(±)-tert-Butyl 4-phenyl-4-((1-(5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)piperidine-1-carboxylate.
To a solution of (±)-tert-butyl 4-(hydroxymethyl)-4-phenylpiperidine-1-carboxylate (193 mg, 0.66 mmol) and 7-(1-bromoethyl)-5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole (280 mg, 0.66 mmol) in dimethylformamide (2.5 mL) at 0° C. was added sodium hydride (60% in mineral oil, 34.4 mg, 0.86 mmol). The resulting solution was stirred at 0° C. for 30 min. The reaction was quenched by the cautious addition of saturated ammonium chloride and diluted with diethyl ether. The ethereal was washed with water (2×), then brine, dried over magnesium sulfate, and concentrated. Column chromatography (12%→20% EtOAc/Hex) gave 62 mg (15%) as an oil. 1H-NMR (CDCl3, 500 MHz) δ 8.24 (s, 1H), 7.94 (s, 1H), 7.32-7.45 (m, 4H), 7.23-7.29 (m, 2H), 5.75 (m, 2H), 5.04 (q, J=6.4 Hz, 1H), 3.81 (m, 2H), 3.67 (m, 2H), 3.44 (qAB, JAB=9.2 Hz, 2H), 3.10 (m, 2H), 2.23 (m, 2H), 2.03 (m, 2H), 1.52 (d, J=6.4 Hz, 3H), 1.48 (s, 9H), 0.97 (m, 2H), 0.00 (s, 9H); 13C-NMR (CDCl3, 126 MHz) δ 155.2, 147.4, 142.9, 135.5, 128.5, 127.3, 126.4, 124.8 (q, J=272 Hz), 124.7 (q, J=32 Hz), 124.6, 121.1, 117.9 (q, J=4.8 Hz), 117.3 (q, J=2.9 Hz), 82.0, 79.3, 78.2, 74.1, 67.8, 41.8, 40.3 (br), 31.8, 28.6, 22.8, 17.9, −1.4. Mass spec.: 634.17 (MH)+.

reactant | (±)-tert-butyl 4-(hydroxymethyl)-4-phenylpiperidine-1-carboxylate | 0.66 mmol, 193 mg | OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C17H25NO3
reactant | 7-(1-bromoethyl)-5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole | 0.66 mmol, 280 mg | BrC(C)C1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)C(F)(F)F | C16H22BrF3N2OSi
reactant | sodium hydride | 0.86 mmol, 34.4 mg | [H-].[Na+]
solvent | dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
product | (±)-tert-Butyl 4-phenyl-4-((1-(5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)piperidine-1-carboxylate | C1(=CC=CC=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)COC(C)C1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)C(F)(F)F | C33H46F3N3O4Si
